US06458772B1
b) 4-Methoxybenzyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate
4-Methoxybenzyl 2-hydroxy-3-methyl-(S)-(+)-butyrate was acylated with N-benzyloxycarbonyl-L-valine by the method described in Example A-I-1, step b. The title compound (5.74 g) was obtained after silica gel column chromatography (0, 1, 1.5% ethanol in dichloromethane). Rf (2%MeOH/CHCl3) 0.70.

reactant | 4-Methoxybenzyl 2-hydroxy-3-methyl-(S)-(+)-butyrate | O[C@H](C(=O)OCC1=CC=C(C=C1)OC)C(C)C | C13H18O4
reactant | N-benzyloxycarbonyl-L-valine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Methoxybenzyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate | 5.74 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)OCC1=CC=C(C=C1)OC)C(C)C | C26H33NO7
